US07101886B2
Starting with 4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenylamine hydrochlQride (0.60 g, 1.702 mmol) and 3-methyl-acryloyl chloride (0.163 mL, 1.702 mmol) and following the procedure outlined in Example 512, but-2-enoic acid{4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl]amide (0.553 g, 1.315 mmol) was obtained. Yield=77%. 100% purity at 254 nM; LCMS (APCI): 421.3 [M+H]+; 1H NMR (400 MHz, DMSO-d6) δ 9.17 (s, 1H), 8.01 (d, J=8.53 Hz, 1H), 7.51 (t, J=8.01 Hz, 1H), 7.38 (t, J=8.01 Hz, 1H), 7.29 (d, J=8.01 Hz, 1H), 7.04 (s, 1H), 6.99 (d, J=8.01 Hz, 1H), 6.70 (dq, J=6.86 Hz, J=15.27 Hz, 1H), 6.15 (d, J=15.32 Hz, 1H), 3.44–3.35 (m, 4H), 3.29 (s, H2O), 2.72-s.58 (m, 6H), 2.57–2.49 (m, 2H), 2.11 (s, 3H), 1.80 (d, J=6.89 Hz, 3H).

reactant | 4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenylamine | 1.702 mmol, 0.60 g | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)N)C | C20H24N4S
reactant | 3-methyl-acryloyl chloride | 1.702 mmol, 0.163 mL | CC=CC(=O)Cl | C4H5ClO
product | but-2-enoic acid{4-[2-(4-benzo[d]isothiazol-3-yl-piperazin-1-yl)-ethyl]-2-methyl-phenyl]amide | 1.315 mmol, 0.553 g, Yield=77% | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC(=C(C=C2)NC(C=CC)=O)C | C24H28N4OS
